US09120805B2
A solution of 547 mg (1.61 mmol) 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester in 10 ml 1,2-dimethoxyethane is treated with 5 ml 1 N aqueous NaOH solution. The resulting suspension is heated to 100° C. and the resulting solution is stirred at this temperature for 48 hours. The reaction mixture is cooled to room temperature and evaporated. The residue is triturated with water and the solids are filtered off and washed with water. The filtrate is acidified with 2 N HCl. The resulting precipitate is filtered off, washed with 2 N HCl and with water and dried under vacuum to give 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid as colourless solid; HPLC/MS 2.03 (A), [M+H] 312.

reactant | 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester | 1.61 mmol, 547 mg | C(C)OC(=O)C1=NN2C(C(NC(=C2)C2=CC=C(C=C2)C(C)(C)C)=O)=C1 | C19H21N3O3
reactant | NaOH | 1 N, 5 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=C(C2)C(=O)O)=O | C17H17N3O3
